US09428499B2
Step-b: Synthesis of 3-Amino-N-(tetrahydrofuran-3-yl)benzamide
3-Nitro-N-(tetrahydrofuran-3-yl)benzamide (0.24 g, 1.016 mmol) was taken in methanol (5 ml), added Pd—C (10%, 0.108 g) and the reaction mixture was stirred under hydrogen atmosphere for 2 hr at room temperature. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated under vacuum to afford the crude product, which was purified by column chromatography eluting with 0-100% ethyl acetate in hexane to obtain the title compound (180 mg).

reactant | 3-Nitro-N-(tetrahydrofuran-3-yl)benzamide | 1.016 mmol, 0.24 g | [N+](=O)([O-])C=1C=C(C(=O)NC2COCC2)C=CC1 | C11H12N2O4
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd—C | 0.108 g | [Pd] | Pd
product | 3-Amino-N-(tetrahydrofuran-3-yl)benzamide | 180 mg | NC=1C=C(C(=O)NC2COCC2)C=CC1 | C11H14N2O2
